US06140274
A solution of 0.36 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-chloro-4,4-difluoro-2-hydroxy-3-butenyloxy)butyloxy)benzene in 5 ml of dichloromethane was slowly added dropwise to a solution of 0.12 g of diethylaminosulfur trifluoride (DAST) in 10 ml of dichloromethane with stirring at -78° C. After complement of the dropwise addition, the reaction mixture was returned to room temperature over 30 minutes and poured into water. The dichloromethane layer was separated, washed with water, dried over magnesium sulfate and then evaporated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.20 g of (Z)-3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-chloro-4,4,4-trifluoro-2-butenyloxy)butyloxy)benzene (yield, 55%), nD23.7 1.5160.

reactant | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-chloro-4,4-difluoro-2-hydroxy-3-butenyloxy)butyloxy)benzene | 0.36 g | ClC=1C=C(C=C(C1OCCCCOCC(C(=C(F)F)Cl)O)Cl)OCC=C(Cl)Cl | C17H17Cl5F2O4
reactant | diethylaminosulfur trifluoride | 0.12 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (Z)-3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-chloro-4,4,4-trifluoro-2-butenyloxy)butyloxy)benzene | 0.20 g, 55% | ClC=1C=C(C=C(C1OCCCCOC\C=C(\C(F)(F)F)/Cl)Cl)OCC=C(Cl)Cl | C17H16Cl5F3O3
